US08106053B2
Synthesis of 5-(3-(cyclopentyloxy)-4-methoxyphenyl)-2-(3-pentyl)pyridazin-3-one (Table 1, Compound No. 18)
To 5-(3-(cyclopentyloxy)-4-methoxyphenyl)pyridazin-3-one prepared in Working Example 5, sodium hydride was added and stirred for 1 hour. Then, 3-pentylbromide dissolved in dimethylformamide was added dropwise and stirred for 18 hours. The reaction mixture was poured into ice-cold water and extracted with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous sodium sulfate. The residue that had been filtered and concentrated was purified by flash chromatography to obtain the title compound.

reactant | 5-(3-(cyclopentyloxy)-4-methoxyphenyl)pyridazin-3-one | C1(CCCC1)OC=1C=C(C=CC1OC)C1=CC(NN=C1)=O | C16H18N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | 3-pentylbromide | CCC(CC)Br | C5H11Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(3-(cyclopentyloxy)-4-methoxyphenyl)-2-(3-pentyl)pyridazin-3-one | C1(CCCC1)OC=1C=C(C=CC1OC)C1=CC(N(N=C1)C(CC)CC)=O | C21H28N2O3
